US06642389B2
i] [rac]-2-Methoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalen-1-yl)-propionic acid
0.143 g of the above prepared [rac]-2-methoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalen-1-yl)-propionic acid ethyl ester (0.28 mmol) was dissolved in 1.5 ml of THF/EtOH=1/1 and treated with 0.47 ml of 3N NaOH (5 eq.). The reaction mixture was stirred at ambient temperature for 2 h and was then poured onto crashed ice/HCl dil. and extracted twice with AcOEt. The organic layer was washed with water, dried over sodium sulfate, and evaporated to dryness. Crystallization from AcOEt/hexane afforded finally 0.120 g of the title product as white crystals of mp. 67-70°.

reactant | [rac]-2-methoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalen-1-yl)-propionic acid ethyl ester | 0.28 mmol | C(C)OC(C(CC1=CC=C(C2=CC=CC=C12)OCCCC=1N=C(OC1C)C1=CC=C(C=C1)OC)OC)=O | C30H33NO6
reactant | NaOH | 3N, 0.47 ml, 5 eq. | [OH-].[Na+]
solvent | THF EtOH | 1.5 ml | C1CCOC1.CCO
product | [rac]-2-Methoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalen-1-yl)-propionic acid | 0.120 g | COC(C(=O)O)CC1=CC=C(C2=CC=CC=C12)OCCCC=1N=C(OC1C)C1=CC=C(C=C1)OC | C28H29NO6
